US08455466B2
1-Bromo-3-hydroxy-3-ethyl-pentyne
To a solution of 3-hydroxy-3-ethyl-1-pentyne (20 mmol) in dry THF (40 ml) at room temperature was added n-butyl-lithium (42 mmol, 1.6M in hexanes) during 10 minutes. After stirring for 30 minutes, the solution was cooled to −40° C. and a solution of bromine (1.13 ml, 3.52 g, 22 mmol) in dry THF (20 ml), also cooled to −40° C., was added, during 20 minutes, followed by re-heating to 25° C., during about 1 hour. Standard work-up after addition of ether and water (chromatography: 0% to 10% ether in petroleum ether) gave the title compound.

reactant | 3-hydroxy-3-ethyl-1-pentyne | 20 mmol | OC(C#C)(CC)CC | C7H12O
reactant | n-butyl-lithium | 42 mmol, 1.6M | C(CCC)[Li]
reactant | bromine | 22 mmol, 1.13 ml, 3.52 g | BrBr | Br2
reactant | ether | CCOCC | C4H10O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-Bromo-3-hydroxy-3-ethyl-pentyne | BrC#CC(CC)(CC)O | C7H11BrO
